* Z:\mnt\design.r\spice\examples\1389-1.25.asc
V2 N001 0 PULSE(0 5 1.5m 10n 10n 4m 2)
R1 N001 N002 4.7Meg
XU1 N002 0 LT1389-1.25
.tran 10m
.lib LT1389.lib
.backanno
.end
