* Z:\mnt\design.r\spice\examples\1501-3.3.asc
L1 N001 N002 33µ
V1 IN 0 2.5
C1 OUT 0 220µ Rser=0.05
D1 N002 OUT 1N5818
XU1 IN IN N001 0 N002 N003 N004 OUT LT1501-3.3
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT1501-3.3.sub
.backanno
.end
