* Z:\mnt\design.r\spice\examples\1502-3.3.asc
XU1 N001 N002 N004 0 IN N005 N003 OUT LTC1502-3.3
C1 N002 N004 1µ
C2 N003 N005 1µ
C3 N001 0 10µ
C4 OUT 0 10µ
Rload OUT 0 100
V1 IN 0 1.4
.tran 2m startup
.lib LTC1502-3.3.sub
.backanno
.end
