* Z:\mnt\design.r\spice\examples\1726-2.5.asc
V4 N007 0 5
R3 N007 N006 10K
C1 N005 0 47n
C2 N008 0 47n
R1 N001 N004 66.5K
R2 N004 0 100K
XU1 N002 N003 N004 0 N009 N006 N008 N005 LTC1726-2.5
V2 N002 0 PWL(0 0 250m 3.3 3 3.3 3.5 0 4 0 4.5 3.3 100 3.3)
V3 N003 0 PWL(0 0 350m 2.5 1 2.5 1.5 0 2 0 2.5 2.5 100 2.5)
V6 N009 0 PULSE(0 2 5000ms 1u 1u 800ms 1600m 6)
V1 N001 0 PWL(0 0 100m 1.8V 5s 1.8V 5.5s 0V 6s 0V 6.5s 1.8V 6.8s 1.8V 6.8001s 0V 6.8002s 1.8V 6.9s 1.8V 6.9001s 0V 6.9002s 1.8V 100s 1.8V)
.tran 17
.lib LTC1726-2.5.sub
.backanno
.end
