* Z:\mnt\design.r\spice\examples\1728-1.8.asc
XU1 N002 0 N004 N005 N003 LTC1728-1.8
V1 N004 0 PWL(0 1.05 7 1.05 8 .95 9 1.05)
V2 N005 0 PWL(0 1.8 4 1.8 5 1.5 6 1.8)
V3 N003 0 PWL(0 3 1 3 2 2.5 3 3)
V4 N001 0 5
R1 N002 N001 10K
.tran 10
.lib LTC1728-1.8.sub
.backanno
.end
