* Z:\mnt\design.r\spice\examples\1728-2.5.asc
XU1 N002 0 N004 N005 N003 LTC1728-2.5
R1 N002 N001 10K
V1 N001 0 5
V2 N004 0 PWL(0 1.05 7 1.05 8 0.95 9 1.05)
V3 N005 0 PWL(0 2.5 4 2.5 5 2.25 6 2.5)
V4 N003 0 PWL(0 3.3 1 3.3 2 3 3 3.3)
.tran 10
.lib LTC1728-2.5.sub
.backanno
.end
