* Z:\mnt\design.r\spice\examples\1728-3.3.asc
XU1 N002 0 N004 N005 N003 LTC1728-3.3
R1 N002 N001 10K
V1 N001 0 5
V2 N004 0 PWL(0 1.05 7 1.05 8 .95 9 1.05)
V3 N005 0 PWL(0 1.8 4 1.8 5 1.5 6 1.8)
V4 N003 0 PWL(0 3.3 1 3.3 2 3 3 3.3)
.tran 10
.lib LTC1728-3.3.sub
.backanno
.end
