* Z:\mnt\design.r\spice\examples\1734-4.2.asc
V1 N001 0 7
R1 N004 0 1K
C1 N005 0 1
Q1 N005 N003 N002 0 2N2907
XU1 N002 0 N001 N004 N005 N003 LTC1734-x.x Ref=4.2
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 5 startup
.lib LTC1734-x.x.sub
.backanno
.end
