* Z:\mnt\design.r\spice\examples\1767-2.5.asc
C1 N001 N002 .1µ
L1 N002 OUT 5µ
D1 0 N002 MBRS130L
D2 OUT N001 1N914
V1 IN 0 5
C2 N005 0 4000p
C3 OUT 0 2.2µ
R1 N005 N004 1K
XU1 N001 IN N002 0 N003 OUT N004 LT1767-x.x top=10.92 bot=10.08
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 200u startup
.lib LT1767-x.x.sub
.backanno
.end
