* Z:\mnt\design.r\spice\examples\1844-1.8.asc
V1 IN 0 5
I1 OUT 0 {iload} load
XU1 IN 0 IN OUT LTC1844-1.8
.dc v1 5 1 10m
.measure DC vdrop WHEN V(out)=1.7
.measure DC dropout param Vdrop-1.7
.param iload=150m
.lib LTC1844.lib
.backanno
.end
