* Z:\mnt\design.r\spice\examples\1911-1.5.asc
C1 N004 N005 1µ
C2 N002 N003 1µ
C3 OUT 0 10µ
Rload OUT 0 18
V1 IN 0 4
C4 0 N001 .01µ
XU1 IN N002 N003 0 N005 OUT N004 N001 LTC1911-1.5
.tran 8m startup
.lib LTC1911-1.5.sub
.backanno
.end
