* Z:\mnt\design.r\spice\examples\3022-1.5.asc
V1 IN 0 PWL(0 0 1 10)
Rload OUT 0 10
C1 OUT 0 10µ
XU1 MP_01 MP_02 OUT MP_03 MP_04 MP_05 OUT MP_06 IN 0 MP_07 IN LT3022-1.5
.tran 1
.lib LT3022.sub
.backanno
.end
