* Z:\mnt\design.r\spice\examples\3410-1.2.asc
V1 IN 0 5
L1 N001 OUT 4.7µ
Rload OUT 0 10
C2 OUT 0 4.7µ
XU1 IN 0 N001 IN MP_01 OUT LTC3410-x.x top=180K bot=360K
.tran 250u startup
.lib LTC3410-x.x.sub
.backanno
.end
