* Z:\mnt\design.r\spice\examples\1021-10.asc
XU1 IN 0 OUT N001 LT1021-10
V1 IN 0 15
R1 OUT N001 {10K*(1-x)}
R2 N001 0 {10K*x}
.tran 1m startup
.step param X .1 .9 .1
.lib LTC3.lib
.backanno
.end
