* Z:\mnt\design.r\spice\examples\1068-200.asc
V1 N009 0 5
V2 0 N008 5
R1 N011 IN2 20K
R2 N015 N011 14K
R3 N012 N011 20K
R4 N016 N014 20K
R5 N013 N014 10K
R6 N010 N014 14K
R7 N003 IN1 20K
R8 N004 N003 14K
R9 N006 N003 20K
R10 N005 N002 20K
R11 N007 N002 10K
R12 N002 N001 14K
XU1 N003 N004 N006 N001 N001 0 N009 N010 N010 N012 N015 N011 N014 N016 N013 OUT2 OUT2 N008 OUT1 OUT1 N007 N005 N002 LTC1068-200 Fclk=2Meg
V3 IN1 0 AC 1
V4 IN2 0 AC 1
.ac oct 200 1K 100K
.lib LTC4.lib
.backanno
.end
