* Z:\mnt\design.r\spice\examples\1068-50.asc
V1 N011 0 3.3
R1 N006 IN 22.6K
R2 N007 N006 20.5K
R3 N004 N006 10K
R4 N009 N006 22.6K
R5 N001 IN 56.2K
R6 N001 N004 13.3K
R7 N005 N001 43.2K
R8 N008 N001 43.2K
R9 N002 N001 196K
R10 N002 N003 9.09K
R11 N005 N003 34K
R12 OUT N013 34.8K
R13 N015 N013 14.3K
R14 N017 N013 16.9K
R15 N013 N014 24.9K
R16 N012 N003 48.7K
R17 N014 N003 12.7K
R18 N016 N003 10.7K
R19 N012 N013 26.7K
C1 N010 0 .1µ
V3 IN 0 AC 1
XU1 N006 N007 N004 N009 N010 N010 N011 N012 N012 N014 N016 N003 N013 N017 N015 OUT N010 0 N002 N002 N008 N005 N001 LTC1068-50 Fclk=500K
.ac oct 200 1K 100K
.lib LTC4.lib
.backanno
.end
