* Z:\mnt\design.r\spice\examples\1374-5.asc
C1 N001 N002 .27µ
L1 N002 OUT 5µ
D1 0 N002 MBRS340
D2 OUT N001 1N914
V1 IN 0 12
C2 N005 N004 .005µ
C3 OUT 0 100µ
R1 N005 0 10K
XU1 IN N001 OUT 0 OUT N004 N003 N002 LT1374 top=5.36K bot=4.99K
Rload OUT 0 2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1374.sub
.backanno
.end
