* Z:\mnt\design.r\spice\examples\1389-5.asc
V1 N001 0 PULSE(0 10 2m 10n 10n 10m 2)
R1 N001 N002 3.3Meg
XU1 N002 0 LT1389-5
.tran 20m
.lib LT1389.lib
.backanno
.end
