* Z:\mnt\design.r\spice\examples\1474-5.asc
V1 IN 0 10
L1 N001 OUT 100µ
D1 0 N001 MBR0530L
C1 OUT 0 100µ
XU1 OUT N003 N002 0 N001 IN IN N004 LTC1474 top=3.05Meg bot=1Meg
Rload OUT 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LTC1474.sub
.backanno
.end
