* Z:\mnt\design.r\spice\examples\1503-2.asc
C1 N001 N004 1µ
C2 N002 N003 1µ
C3 OUT 0 10µ
Rload OUT 0 18
C4 N005 0 100p
XU1 OUT N002 N003 IN N005 N004 0 N001 LTC1503-2
V1 IN 0 PWL(0 6 5m 2.4)
.tran 5m
.lib LTC1503-2.sub
.backanno
.end
