* Z:\mnt\design.r\spice\examples\1505-1.asc
M§Q1 N002 N006 N007 N007 Si4412DY
M§Q2 N007 N010 0 0 Si4412DY
L1 N007 N008 15µ
D1 0 N007 MBRS140
R1 N008 OUT .025
R2 N008 N023 200
R3 OUT N024 200
R4 N014 0 4.93K
R5 N014 N017 300
R6 N012 N013 3K
C1 N017 0 1µ
C2 N013 0 .33µ
C3 N019 0 .1µ
R7 N002 N018 5K
C4 N001 N007 .68µ
C5 N004 0 2.2µ
D2 N004 N001 1N4148
D3 N001 N003 1N4148
C6 N003 0 .1µ
R8 IN N015 100K
R9 N011 0 4K
R10 IN N011 4K
C7 N002 0 47µ
V1 IN 0 24
V2 OUT 0 PWL(0 12 1m 12 10m 17)
R11 N006 N005 5
M§Q3 IN N009 N002 N002 Si9803DY
R12 N020 N021 1K
C8 N020 0 .68µ
XU1 N001 N005 N007 MP_01 N015 0 N011 N009 MP_02 MP_03 N021 N019 N018 N022 N016 N016 N016 N012 N014 OUT N023 N008 N024 N002 N003 N004 N010 0 LT1505-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.ic V(vc)=1 V(prg)=2.5
.lib LT1505-1.sub
.backanno
.end
