* Z:\mnt\design.r\spice\examples\1515-3.asc
V1 IN 0 3
R1 IN N001 5K
C1 N002 N003 1µ
C2 OUT 0 10µ
Rload OUT 0 100
XU1 IN N001 0 0 N003 N002 IN OUT LTC1515-3
.tran 1m startup
.lib LTC1515-3.sub
.backanno
.end
