* Z:\mnt\design.r\spice\examples\1517-5.asc
XU1 IN 0 OUT N002 N001 LTC1517-5
C2 N002 N001 .1µ
C1 OUT 0 6.8µ
V1 IN 0 3
Rload OUT 0 500
.tran 1m startup
.lib LTC1517-5.sub
.backanno
.end
