* Z:\mnt\design.r\spice\examples\1563-3.asc
V2 N001 0 3.3
C1 N007 0 .1µ
R1 N004 N002 10K
R2 N006 N002 10K
V1 IN 0 1.66 ac 1
R3 N005 N003 10K
R4 OUT N003 10K
R5 N002 IN 10K
R6 N003 N006 10K
XU1 N001 N002 N004 N006 N007 0 0 N003 N005 OUT N001 LTC1563-3
.ac oct 10 1 100Meg
.lib LTC1.lib
.backanno
.end
