* Z:\mnt\design.r\spice\examples\1574-5.asc
V1 IN 0 9 Rser=0.1
L1 N001 OUT 100µ Rser=0.02 Rpar=5000
C2 OUT 0 100µ Rser=0.02
XU1 OUT MP_01 MP_02 0 N001 IN IN IN LTC1574 top=93.5K bot=31.5K
Rload OUT 0 20
.tran 2.5m startup
.lib LTC1574.sub
.backanno
.end
